US04816452
c. Ethyl-4-bromo-(Z)-2-(cyclohexyloxyimino)-3-oxobutyrate
A solution of bromine (4.5 ml) in carbon tetrachloride (50 ml) was added dropwise to a mixture of ethyl (Z)-2-(cyclohexyloxyimino)-3-oxobutyrate (20.0 g), hydrogen bromide in acetic acid (45%, 1.0 ml) and carbon tetrachloride (150 ml) over 1.5 h, at room temperature. The mixture was stirred for 2 h, then the solvent removed in vacuo.

reactant | bromine | 4.5 ml | BrBr | Br2
reactant | ethyl (Z)-2-(cyclohexyloxyimino)-3-oxobutyrate | 20.0 g | C1(CCCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C12H19NO4
reactant | hydrogen bromide | Br | BrH
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl-4-bromo-(Z)-2-(cyclohexyloxyimino)-3-oxobutyrate | C(C)OC(\C(\C(CBr)=O)=N/OC1CCCCC1)=O | C12H18BrNO4
